US05136049
1.1 2,5-Bis-(2-thienylmethylidene)-2,5-dihydrothiophene-1,1-dioxide (1a) (C14H10O2S3, MW=306)
About 80 mmol (9.4 g) of 3-sulfolene (MW=118) and 170 mmol (19.04 g) (15.9 ml) of thiophene-2-aldehyde (MW=112, d=1.2 g/cm3) were added to an alkaline solution of 1 g of NaOH in 200 ml of ethanol. The mixture was stirred at room temperature for 3 days. A yellow precipitate formed which was filtered off with suction and washed thoroughly with ethanol and water.

reactant | 3-sulfolene | 80 mmol, 9.4 g | S1(=O)(=O)CC=CC1 | C4H6O2S
reactant | thiophene-2-aldehyde | 170 mmol, 15.9 ml, 19.04 g | S1C(=CC=C1)C=O | C5H4OS
reactant | NaOH | 1 g | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2,5-Bis-(2-thienylmethylidene)-2,5-dihydrothiophene-1,1-dioxide | S1C(=CC=C1)C=C1S(C(C=C1)=CC=1SC=CC1)(=O)=O | C14H10O2S3
